data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C(CC1=CC=C(C=C1)O)C2=C(C=C(C=C2O)O)O.[NH3:10].CCOCC.O.OS(=O)(=O)[O-]>>[H:20][NH3+:10].C1=CC(=CC=C1CC(=[O:21])C2=C(C=C(C=C2O)O)O)O.CCOCC.O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CC1=C(NC(=C1CCC(=O)OC)C)C(OC)[O:10]C.CO.O>>[H:20][O+:10](C)C(C1=C(C(=C(N1)C)CCC(=O)OC)C)OC.C(=O)(C(F)(F)F)[O-:21].CO.O 10=20;20,21=21
CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)[OH:10].[CH2:21]=[S:20](=O)=O.CC[NH+](CC)CC.[Cl-]>>CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)[OH+:10][S:20](=O)(=O)[CH2-:21].CC[NH+](CC)CC.[Cl-] 10=20;20,21=21
CC(=O)[O:21][CH:20](C1=CC(=C(C=C1)OC)O)[C:10](=[C:11]([O-:12])OC(=O)C)C2=CC(=C(C(=C2)OC)OC)OC.CC[NH+](CC)CC.CC(=O)[O-]>>CC(=O)[O-:21].CC(=O)O[C:11](=[O:12])[C:10](=[CH:20]C1=CC(=C(C=C1)OC)O)C2=CC(=C(C(=C2)OC)OC)OC.CC[NH+](CC)CC.CC(=O)[O-] 10,11=10,20;20,21=21;12=11
CCO[C:20]1(C=C[C-:12]([CH:11]=[CH:10]1)[N+](=O)[O-])[I:21]>>CCO[C:20]1=[CH:10][CH:11]=[C:12](C=C1)[N+](=O)[O-].[I-:21] 10,11=10,20;20,21=21;12=11
CC(C)(C)OC(=O)[C:20](=[O:21])C(=O)CC1=CC=CC=C1.C1=CC2=C(C=C1)NC=C2CC[NH2:10]>>CC(C)(C)OC(=O)[C:20](C(=O)CC1=CC=CC=C1)([NH2+:10]CCC2=CNC3=C2C=CC=C3)[O-:21] 10=20;20,21=21
CC(C)NC(=NC(C)C)O[C:20](=[O:21])C(C)NC(=O)OC.CC(C(=O)NC)[NH2:10]>>CC(C)NC(=NC(C)C)O[C:20](C(C)NC(=O)OC)([NH2+:10]C(C)C(=O)NC)[O-:21] 10=20;20,21=21
[H:20][CH:21]1CN(CC[C:22]1=[N+:23]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CN1CC[C:22](=[CH:21]C1)[N:23]2CCN(CC2)C3=CC=C(C=C3)C4=CC5=C(C=C4)N(C6=C5C(=CC=N6)Cl)S(=O)(=O)C7=CC=CC=C7.O 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)CNC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)NCC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(CC#N)([NH:10]C)O>>[H:20][NH+:10](C)C(CC#N)(NCC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][OH+:21]C(C)C.CC(C)O[Al-]([O:10]C1CC2(C3(CC4C(CC3C1=O)OC(O4)(C)C)C)OCCO2)(OC(C)C)OC(C)C>>[H:20][O+:10](C1CC2(C3(CC4C(CC3C1=O)OC(O4)(C)C)C)OCCO2)[Al-](OC(C)C)(OC(C)C)OC(C)C.CC(C)[OH:21] 10=20;20,21=21
[H:20][OH2+:21].C1CC[O:10]C(C1)O>>[H:20][O+:10]1CCCCC1O.[OH2:21] 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)[C:20](=[O:21])CC5)O)C=C1.N[NH2:10].C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)[C:20](CC5)([NH2+:10]N)[O-:21])O)C=C1.C(COCCO)O.O 10=20;20,21=21
C[Si:20](C)(C)C[C+]=C.C=[O:10]>>C[Si-:20](C)(C)(C[C+]=C)[O+:10]=C 10=20,
C[CH:20]=[O+:21]CC[O:10][Si](C)(C)C>>C[CH:20]1[O:21]CC[O+:10]1[Si](C)(C)C 10=20;20,21=21
[H:20][O+:21](CCCO)S(=O)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C(CO)C[O:21]S(=O)Cl 10=20;20,21=21
CC(C)N(CC1=CC=CC=C1)C(=O)C2[C:20]([C:10]3=[C:11]([NH:12]2)CC45CCN(C(C4(C3)O)CC6=CC=CC=C56)C)(C)[OH2+:21].CC(=O)[O-].O>>C[C:20]1=[C:10]2CC3(C4CC5=CC=CC=C5C3(CCN4C)C[C:11]2=[NH+:12]C1C(=O)N(CC6=CC=CC=C6)C(C)C)O.[OH2:21].CC(=O)[O-].O 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].C1=CC(=C[C:10](=C1)[Mg:11]Br)C(=O)O>>[H:20][C:10]1=CC=CC(=C1)C(=O)O.[OH2:21].[Mg+:11]Br 10,11=10,20;20,21=21
C[C:11](C)(C)[Si-:10](C)(C)(C)[O+](C)C>>C[C-:11](C)C.C[O+](C)[Si:10](C)(C)C 10,11=11
C[CH:20]([O-:10])[Cl:21]>>C[CH:20]=[O:10].[Cl-:21] 10=20;20,21=21
CCC(C)[O-:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>CCC(C)[O:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
[H:20][NH2+:21]O.CC(C)(NO)[O-:10]>>[H:20][O:10]C(C)(C)NO.[NH2:21]O 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CCC(=O)C.CC[O-:10]>>[H:20][O:10]CC.CC(=O)CC[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][Br:21].CC[C:11](=[CH:10]C)C>>[H:20][CH:10](C)[C+:11](C)CC.[Br-:21] 10,11=10,20;20,21=21
CCOC(=O)C(C)[O-:10].CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)O>>CCOC(=O)C(C)[O:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)N(C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)C(=O)O 10=20,
[H:20][N+:21](CC)(CC)CC.CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)[OH+]S(=O)(=O)[CH2-:10].[Cl-]>>[H:20][CH2:10]S(=O)(=O)[OH+]C1C(CC(=O)N1C)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC.CC[N:21](CC)CC.[Cl-] 10=20;20,21=21
CN[C:20]1(CC2(CCC(=O)CC2[O:21]1)C3=CC(=C(C=C3)OC)OC)[O-:10].C[NH3+]>>CN[C:20](=[O:10])CC1(CCC(=O)CC1[O-:21])C2=CC(=C(C=C2)OC)OC.C[NH3+] 10=20;20,21=21
CCC(CCCNC(=O)CCl)(CCC(=O)CC1=C(C=CC=C1)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C)C=O.C(=O)(C(F)(F)F)[O-]>>CCC(CCCNC(=O)CCl)(CCC(=O)CC1=C(C=CC=C1)N[C:20](=[O:10])[OH:21])C=O.C[C+:11](C)C.C(=O)(C(F)(F)F)[O-] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC[O:10]P(C)(C)(C)N(C(=O)OC)NC(=O)OC>>[H:20][O+:10](CC)P(C)(C)(C)N(C(=O)OC)NC(=O)OC.CC(=O)[O-:21] 10=20;20,21=21
[B-](OC(CC1C[C+](CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)C[Si:20](C)(C)C)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F.CC[O:10]CC>>[B-](OC(CC1C[C+](CC(O1)CCO[Si](C(C)C)(C(C)C)C(C)C)C[Si-:20](C)(C)(C)[O+:10](CC)CC)CC2C(CCC(O2)CCOCC3=CC=CC=C3)C)(F)(F)F 10=20,
C1C[CH:11]2C[C:10]23CCC[C+:20]3C1.CC(=O)[O-].CS(=O)(=O)[O-]>>C1C[CH+:11]C[C:10]2=[C:20](C1)CCC2.CC(=O)[O-].CS(=O)(=O)[O-] 10,11=10,20
[H:20][C:21]1(C=CC=C([CH+:22]1)[NH3+])S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)[NH3+])S(=O)(=O)O 10=20;20,21=21,22
